Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ year old female with history of diabetes, HTN, prior
cholecystectomy presenting with abdominal pain.  She had a CCY
about ___ years ago. Around ___, she began having
episodes of abdominal pain. MRCP at that time demonstrated two
retained stones, however her symptoms resolved and so they were
never intervened upon.  She reports that last ___, she began
having recurrent episodes of abdominal pain. These are primarily
located in the upper abdomen. The pain is intermittent, comes in
___ hour episodes, then resolves. She denies associated 
jaundice,
dark urine, acholic stools. Furthermore, has been without
fatigue, loss of appetite or weight loss.  CT at ___
demonstrated biliary dilatation with CBD bulging into the
duodenum. MRCP was recommended to further characterize.   

In the ED, initial vitals were 97.8 84 150/63 18 100% RA.  She
appeared uncomfortable.  Exam was otherwise unremarkable.  Labs
showed ALT 215, AST 264, AP 288, Tbili 2.8->3.9, lactate 4.2. 
After 2 liters NS, lactate improved to 1.5.  She received
piperacillin-tazobactam IV x 2, 4 mg morphine sulfate IV,
ondansetron 4 mg IV x 1, and 2 units insulin.  ERCP is planning
going right to ERCP procedure.  Blood cultures in ED grew GNRs.

Currently, the patient denies any abdominal pain, nausea or
vomiting, fevers or chills.
 
Past Medical History:
Diabetes
Hypertension
GERD
s/p CCY approximately ___ years ago
s/p Laparotomy for ectopic pregnancy
 
Social History:
___
Family History:
Non-contributory to current presentation
 
Physical Exam:
Admission Physical Exam:
========================
Vitals: T: 98.1 BP: 186/81 P: 94 R: 16 O2: 95% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  Obese. 
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm. 

Discharge Physical Exam:
========================
Vitals: see Eflowsheets  
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  Obese. 
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Breathing non-labored 
ABD: Soft, non-tender, non-distended  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.  
 
Pertinent Results:
Admission Labs:
===============
___ 08:00AM BLOOD WBC-8.2 RBC-3.73* Hgb-11.4 Hct-33.5* 
MCV-90 MCH-30.6 MCHC-34.0 RDW-13.4 RDWSD-44.0 Plt ___
___ 08:06PM BLOOD Glucose-220* UreaN-14 Creat-0.8 Na-141 
K-4.5 Cl-100 HCO3-18* AnGap-23*
___ 08:06PM BLOOD ALT-215* AST-264* AlkPhos-288* 
TotBili-2.8*
___ 08:06PM BLOOD Albumin-4.0 Calcium-9.9 Phos-3.9 Mg-1.6
___ 08:15PM BLOOD Lactate-4.2*
___ 12:21AM BLOOD Lactate-1.5

Imaging:
========
CXR:
No acute cardiopulmonary process.

Discharge Labs:
===============
___ 06:25AM BLOOD WBC-4.6 RBC-3.89* Hgb-11.8 Hct-35.7 
MCV-92 MCH-30.3 MCHC-33.1 RDW-13.4 RDWSD-45.6 Plt ___
___ 06:25AM BLOOD Glucose-186* UreaN-10 Creat-0.7 Na-144 
K-4.2 Cl-105 HCO3-24 AnGap-15
___ 06:25AM BLOOD ALT-93* AST-41* AlkPhos-216* TotBili-1.4
___ 06:25AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.___ year old female with history of diabetes, HTN, prior 
cholecystectomy who presented with abdominal pain, found to have 
bile duct obstruction and cholangitis with bacteremia.

# Bile duct obstruction
# GNR bacteremia
# Abdominal pain
# Transaminitis: presented with abdominal pain. Labs were 
suspicious for biliary obstruction given mild transaminitis and 
bilirubin of 3.9. She was also found to have GNR bacteremia. CT 
at ___ revealed biliary dilation with CBD bulging into the 
duodenum.
She was transferred for ERCP evaluation. She was initially 
treated with zosyn, then transitioned to IV ciprofloxacin to 
treat bacteremia. She underwent ERCP with findings suggestive of 
an ampullary mass. Biopsy was performed, along with stenting and 
sphincterotomy. She was kept NPO overnight. Diet was advanced 
the following morning and she was tolerating a regular diet at 
time of discharge.
She was discharged on ciprofloxacin with plans for a 14 day 
total course (last day ___.
She will need repeat ERCP in 4 weeks for stent pull. She will 
also require follow up of biopsy results. ERCP team will arrange 
for appropriate follow up pending results of biopsy.
 
# Diabetes: held metformin, placed on ISS while hospitalized
 
# Hypertension: continued home losartan

# GERD: continued home omeprazole

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- should have repeat LFTs checked at primary care follow up 
(labs at discharge: ALT 93, AST 41, AP 216, tbili 1.4)
- results of biopsy of ampullary mass pending at discharge
- needs ERCP in four weeks for stent pull
- discharged on two week course of ciprofloxacin for GNR 
bacteremia (day ___ = ___. Speciation still pending at discharge 
but organism pan-sensitive per preliminary sensitivities
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 50 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*23 Tablet Refills:*0 
2.  Losartan Potassium 50 mg PO DAILY  
3.  MetFORMIN (Glucophage) 500 mg PO BID  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Biliary obstruction
Ampullary mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were sent in from ___ because your CT scan showed that 
your bile duct appeared abnormal.
You had an ERCP procedure which showed that the opening of the 
bile duct was enlarged. A biopsy was taken during the procedure. 
It will be very important to follow up the results of the biopsy 
with the ERCP team.

We also found that your bile duct was blocked. A stent was 
placed to open the blockage. You will need another ERCP 
procedure in 4 weeks to remove the stent.

The blockage in your bile duct also caused an infection that 
spread to your blood. We started you on an antibiotic to treat 
this infection, which you will need to take for two weeks (last 
day ___.

The GI doctors ___ to schedule a follow up appointment 
and to discuss the biopsy results. If you do not hear from 
anyone, please call ___ to schedule an appointment.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___